US05563163
Reaction of 2-isopropyl-4-fluorobenzoic acid with thionyl chloride affords 2-isopropyl-4-fluorobenzoyl-chloride, which, on reaction with diethylamine, affords 2-isopropyl-4-fluoro-N,N-diethylbenzamide. Reaction of the latter with s-butyl lithium and reaction of the resulting lithium salt with sulfur dioxide followed by sodium hydroxylamine-O-sulfonate affords 2-isopropyl-4-fluoro-6-aminosulfonyl-N,N-diethylbenzamide, which, on heating in glacial acetic acid, affords 4-isopropyl-6-fluorosaccharin.

reactant | 2-isopropyl-4-fluorobenzoic acid | C(C)(C)C1=C(C(=O)O)C=CC(=C1)F | C10H11FO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-isopropyl-4-fluorobenzoyl-chloride | C(C)(C)C1=C(C(=O)Cl)C=CC(=C1)F | C10H10ClFO
